Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
elective admission for ERCP
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
This is a ___ year old man who was admitted for elective ERCP 
because of RUQ abdominal pain and CBD dilatation on CT. He 
underwent sphincterotomy and a small stone and sludge 
spontaneously passed after the sphincterotomy. He s then 
admitted to our service for further monitoring for high risk of 
pancreatitits. Currently he denies any GI symptoms including 
abdominal pain, nausea, vomiting, diarrhea, or jaundice. He has 
history of CAD with instent restenosis with repeat 
revascularization in  ___. He had several episodes of chest 
pain but repeat stress tests were negative. Currently, he denies 
cardiac symptoms including chest pain, dyspnea, palpitation, or 
respiratory symptoms of cough, wheezing, or fever. He has long 
standing diabetes and gastroparesis but no recent weight loss of 
vomiting. All remaining systems were reviewed and symptoms were 
negative. 
 
Past Medical History:
Past Medical History:
1) status post left great toe debridement ___ 
2) CAD s/p MI in ___ treated with a stent which restenosed 
and was redone in ___. Neg stress MIBI 6 months ago.
3) Lumbar fusion in ___ at ___, ?L4-L5
4) DM 
5) Gastroparesis
6) HTN

 
Social History:
___
Family History:
N/A
 
Physical Exam:
General: Pleasant male, appears omfortable laying flat, NAD. 
HEENT: Normocephalic and atraumatic head, moist mucous 
membranes. 
Neck: Neck supple, non-tender, No thyromegaly, no 
lymphadenopathy
Chest: CTAB ant. No wheezes, rhonchi. 
CV: RRR, normal S1 and S2, soft II/VI HSM, no  rubs or gallops.
Abd: Normoactive bowel sounds. Soft, nondistended. No pain. No 
masses. No rebound/guarding. No HSM. 
Ext: No cyanosis, no clubbing or edema with 2+ dorsalis pedis 
pulses bilaterally
Neuro: A and Ox3. CN II-XII symmetrically intact. DTRs 2+ 
throughout with out focal weakness or sensory loss. 
 
Pertinent Results:
___ 10:15AM   GLUCOSE-245* UREA N-21* CREAT-1.0 SODIUM-137 
POTASSIUM-4.7 CHLORIDE-100 TOTAL CO2-32 ANION GAP-10
___ 10:15AM   estGFR-Using this
___ 10:15AM   ALT(SGPT)-50* AST(SGOT)-27 ALK PHOS-103 
AMYLASE-44 TOT BILI-0.3 DIR BILI-0.1 INDIR BIL-0.2
___ 10:15AM   LIPASE-18
___ 10:15AM   WBC-6.0 RBC-4.20* HGB-12.7* HCT-36.3* MCV-86 
MCH-30.1 MCHC-34.9 RDW-13.0
___ 10:15AM   NEUTS-69.1 ___ MONOS-5.8 EOS-3.9 
BASOS-0.4
___ 10:15AM   PLT COUNT-226
___ 10:15AM   ___ PTT-24.9 ___
.
Discharge labs ___:
WBC-9.6# RBC-3.59* Hgb-11.2* Hct-31.3* MCV-87 MCH-31.3 
MCHC-35.8* RDW-13.0 Plt ___
Glucose-76 UreaN-13 Creat-0.9 Na-137 K-4.0 Cl-100 HCO3-31 
AnGap-10
ALT-77* AST-64* LD(LDH)-197 AlkPhos-128 TotBili-0.4
Albumin-3.7 Calcium-8.9 Phos-3.2 Mg-1.6
.
ERCP ___:
Diffuse dilation of the biliary tree, likely related to 
ampullary stenosis.   
Sphincterotomy and balloon sweep performed 
Small stone and sludge extracted from bile duct 
Admit overnight for monitoring s/p sphincterotomy 
IV fluids, clears tonight, and advance diet tomorrow as 
tolerated

 
Brief Hospital Course:
This is a ___ year old man who was admitted for elective ERCP 
because of RUQ abdominal pain and CBD dilatation on CT. He 
underwent sphincterotomy, and a small stone and sludge 
spontaneously passed after the sphincterotomy. He was then 
admitted to our service for further monitoring for high risk of 
post ERCP pancreatitis. Post ERCP, he denied any GI symptoms 
including abdominal pain, nausea, vomiting, diarrhea, or 
jaundice. His procedure was uncomplicated. 

He was kept NPO and received IV fluids. He was orthostatic on 
the day after admission, which improved with hydration.

He was continued on his BP medications.  Aspirin was held, and 
will be held for 1 week after discharge after sphincterotomy.   

He was discharged home with PCP and GI follow up.  He will have 
repeat LFTs this week, and was advised to take only 2 g of 
tylenol per day given elevated LFTs.

Discharge diagnosis:
Cholelithiasis
Biliary duct dilation
Ampullary stenosis
Hypertension
CAD
Transaminitis
Insulin dependent diabetes mellitus, type II, with 
complications.
 
Medications on Admission:
Aspirin 81 mg PO/NG DAILY  
Lisinopril 5 mg PO/NG DAILY   
Citalopram Hydrobromide 40 mg PO/NG DAILY  
Atenolol 50 mg PO/NG DAILY 
Insulin SC  LAntus 20 at night and Humulog SS ___ depending on 
premeal glucose. 

 
Discharge Medications:
1. Lantus 100 unit/mL Solution Sig: Twenty (20) units 
Subcutaneous once a day.  
2. Percocet ___ mg Tablet Sig: ___ Tablets PO three times a 
day: up to 2 g of tylenol per day.  
3. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
5. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Humalog 100 unit/mL Solution Sig: Sliding scale units 
Subcutaneous four times a day.  
7. Outpatient Lab Work
LFTs (ALT, AST, Alk phos, bilirubin) on ___.  Results to 
___. ___ phone 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholelithiasis
Ampullary stenosis
Hypertension
Orthostatic hypotension
CAD
Diabetes mellitus, type II, with complications
Chronic back pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with gallstones, and abdominal pain.  You 
underwent an ERCP to open your bile duct and remove the stones.  
There were no complications from the procedure.
.
No aspirin or NSAIDs (advil, ibuprofen) for 1 week.
Take at most 2 grams of tylenol per day (6 percocet).
Recheck your LFTs in 1 week.

No other changes to your medications.
.
Return to the ER if you develop worsening symptoms, abdominal 
pain, bleeding from your rectum
 
Followup Instructions:
___